US08236806B2
4-(3-(5-(4-fluorophenyl)-1-phenyl-1H-pyrazol-3-yl)propyl)-2-methyl-1-m-tolylpiperazine (Compound 98)
54 mg (65%) of target compound was obtained by using a method same as in Example 1 by using 3-(5-(4-fluorophenyl)-1-phenyl-1H-pyrazol-3-yl)-propanal (53 mg, 0.179 mmol), 2-methyl-1-m-tolylpiperazine (32 mg, 0.179 mmol), DIPEA (0.033 mL, 0.187 mmol) and NaBH(OAc)3 (108 mg, 0.510 mmol).

reactant | 3-(5-(4-fluorophenyl)-1-phenyl-1H-pyrazol-3-yl)-propanal | 0.179 mmol, 53 mg | FC1=CC=C(C=C1)C1=CC(=NN1C1=CC=CC=C1)CCC=O | C18H15FN2O
reactant | 2-methyl-1-m-tolylpiperazine | 0.179 mmol, 32 mg | CC1N(CCNC1)C=1C=C(C=CC1)C | C12H18N2
reactant | DIPEA | 0.187 mmol, 0.033 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 0.510 mmol, 108 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 4-(3-(5-(4-fluorophenyl)-1-phenyl-1H-pyrazol-3-yl)propyl)-2-methyl-1-m-tolylpiperazine | FC1=CC=C(C=C1)C1=CC(=NN1C1=CC=CC=C1)CCCN1CC(N(CC1)C=1C=C(C=CC1)C)C | C30H33FN4
